US05198449
1-[4-[3-[4-[(4-Fluorophenyl)[(4-fluorophenyl)amino]methyl]-1-piperidinyl]propoxy]phenyl]-2-methyl-1-propanone dihydrochloride
A mixture of N,α-bis(4-fluorophenyl)-4-piperidinemethanamine (4.63 g, 0.0153 mol), 1-[4-(3-chloropropoxy)phenyl]-2-methyl-1-propanone (3.69 g, 0.0153 mol), and potassium carbonate (2.76 g, 0.02 mol) was heated at reflux 16 h in 350 mL 1-butanol containing sodium iodide (0.2 g). The reaction was concentrated to dryness and partitioned between chloroform and water. The chloroform layer was then extracted with 5% sodium hydroxide and dried (Na2SO4). The chloroform was removed to give a red oil. This material was subjected to flash chromatography on silica gel using 2% methanol in methylene chloride to accomplish elution. Fractions of similar purities were combined, and solvents removed to give an oil. The oil was converted to the HCl salt and recrystallized from methanol-diethyl ether to give a white solid. This solid was dried 16 h at 78° C. in vacuo. The procedure utilized here furnished 5.26 g (59%) of white crystalline product, mp 221° -223° C. (dec.).

reactant | N,α-bis(4-fluorophenyl)-4-piperidinemethanamine | 0.0153 mol, 4.63 g | FC1=CC=C(C=C1)NC(C1CCNCC1)C1=CC=C(C=C1)F | C18H20F2N2
reactant | 1-[4-(3-chloropropoxy)phenyl]-2-methyl-1-propanone | 0.0153 mol, 3.69 g | ClCCCOC1=CC=C(C=C1)C(C(C)C)=O | C13H17ClO2
reactant | potassium carbonate | 0.02 mol, 2.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.2 g | [I-].[Na+]
reactant | HCl | Cl | ClH
solvent | 1-butanol | 350 mL | C(CCC)O | C4H10O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-[4-[3-[4-[(4-Fluorophenyl)[(4-fluorophenyl)amino]methyl]-1-piperidinyl]propoxy]phenyl]-2-methyl-1-propanone dihydrochloride | Cl.Cl.FC1=CC=C(C=C1)C(C1CCN(CC1)CCCOC1=CC=C(C=C1)C(C(C)C)=O)NC1=CC=C(C=C1)F | InChI=1S/C31H36F2N2O2.2ClH/c1-22(2)31(36)25-6-14-29(15-7-25)37-21-3-18-35-19-16-24(17-20-35)30(23-4-8-26(32)9-5-23)34-28-12-10-27(33)11-13-28;;/h4-15,22,24,30,34H,3,16-21H2,1-2H3;2*1H
